US04440929
1-Hydroxy-5-methyl-4-oxo-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid
A mixture of 1-bromo-5-methyl-4-oxo-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester (1.5 g) and 0.5 N sodium hydroxide solution (40 ml) was heated on steam bath for 18 hours. After cooling and acidification by concentrated hydrochloric acid, the product precipitated out as a cream colored solid (0.9 g, 81% yield), m.p. >300° C.

reactant | 1-bromo-5-methyl-4-oxo-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 1.5 g | C(C)OC(=O)C=1N=C(N2C1C(N(C1=CC=CC=C21)C)=O)Br | C14H12BrN3O3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 0.5 N, 40 ml | [OH-].[Na+]
product | 1-Hydroxy-5-methyl-4-oxo-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid | 0.9 g, 81% yield | OC1=NC(=C2N1C1=CC=CC=C1N(C2=O)C)C(=O)O | C12H9N3O4
